** sch_path: /home/hx2003/Desktop/ttihp-delay/schematics/hx_delay_cell.sch
.subckt hx_delay_cell DELAY_CELL_IN DELAY_CELL_OUT DELAY_CELL_OUT_INV DELAY_VBIASP DELAY_VBIASN VSS VDD
*.PININFO VDD:I VSS:I DELAY_CELL_OUT_INV:O DELAY_VBIASN:I DELAY_VBIASP:I DELAY_CELL_IN:I DELAY_CELL_OUT:O
MM1 net1 DELAY_CELL_IN net3 VSS sg13_lv_nmos w=0.74u l=0.2u ng=1
MM2 net3 DELAY_VBIASN VSS VSS sg13_lv_nmos w=0.74u l=0.6u ng=1
MM3 net2 DELAY_VBIASP VDD VDD sg13_lv_pmos w=1.12u l=0.6u ng=1
MM4 DELAY_CELL_OUT net1 VSS VSS sg13_lv_nmos w=0.74u l=0.13u ng=1
MM5 net1 DELAY_CELL_IN net2 VDD sg13_lv_pmos w=1.12u l=0.2u ng=1
MM6 DELAY_CELL_OUT net1 VDD VDD sg13_lv_pmos w=1.12u l=0.13u ng=1
MM7 DELAY_CELL_OUT_INV DELAY_CELL_OUT VSS VSS sg13_lv_nmos w=0.74u l=0.13u ng=1
MM8 DELAY_CELL_OUT_INV DELAY_CELL_OUT VDD VDD sg13_lv_pmos w=1.12u l=0.13u ng=1
.ends
